US09062059B2
Tert-butyl 2-oxo-2-(2-pivaloylhydrazinyl)ethylcarbamate (15-1)
A mixture of 2-(tert-butoxycarbonylamino)acetic acid (200 mg, 1.14 mmol) and EEDQ (282 mg, 1.26 mmol) in DCM (5 mL) was stirred at room temperature for 15 min, then pivalohydrazide (145 mg, 1.26 mmol) was added and the mixture was continued stirring overnight. The reaction mixture was concentrated and purified by reverse phase chromatography to afford the title compound (100 mg, 32%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.98 (s, 1H), 8.28 (s, 1H), 5.24 (s, 1H), 3.92 (d, J=5.8 Hz, 2H), 1.46 (s, 9H), 1.26 (s, 9H); LRMS (ES) calculated M+Na for C21H25N5O4: 296.2. Found: 296.0.

reactant | 2-(tert-butoxycarbonylamino)acetic acid | 1.14 mmol, 200 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | EEDQ | 1.26 mmol, 282 mg | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | pivalohydrazide | 1.26 mmol, 145 mg | C(C(C)(C)C)(=O)NN | C5H12N2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 2-oxo-2-(2-pivaloylhydrazinyl)ethylcarbamate | 100 mg, 32% | O=C(CNC(OC(C)(C)C)=O)NNC(C(C)(C)C)=O | C12H23N3O4
